US04366165
B. 1-[2-Cyano-2-(2,4-dichlorophenyl)hexyl]-1,2,4-triazole
To a dimethyl sulfoxide solution (25 ml) of sodium 1,2,4-triazole, generated from 3.2 g (0.046 m) of 1H-1,2,4-triazole and 1.85 g (0.046 m) of sodium hydroxide, is added 2-cyano-2-(2,4-dichlorophenyl) hexyl bromide dropwise at 110°. The whole is stirred at 110° for 11/2 hours. The reaction mixture is poured into 400 ml of water and extracted with ether. The combined ether extracts are washed with water and dried over MgSO4. Drying agent was filtered and to the filtrate is added conc. nitric acid dropwise until no more precipitates form. The precipitate (8.0 g) is filtered and is characterized as the nitric acid salt (RH 45,136) of the desired product.

reactant | sodium 1,2,4-triazole | N1N=CN=C1.[Na]
reactant | 1H-1,2,4-triazole | 3.2 g | N1N=CN=C1 | C2H3N3
reactant | sodium hydroxide | 1.85 g | [OH-].[Na+]
reactant | 2-cyano-2-(2,4-dichlorophenyl) hexyl bromide | C(#N)C(CBr)(CCCC)C1=C(C=C(C=C1)Cl)Cl | C13H14BrCl2N
solvent | water | 400 ml | O | H2O
solvent | dimethyl sulfoxide | 25 ml | CS(=O)C | C2H6OS
product | 1-[2-Cyano-2-(2,4-dichlorophenyl)hexyl]-1,2,4-triazole | C(#N)C(CN1N=CN=C1)(CCCC)C1=C(C=C(C=C1)Cl)Cl | C15H16Cl2N4
